US07910783B2
All manipulations with air and moisture sensitive compounds were performed either in an atmosphere of thoroughly purified argon using a standard Schlenk technique or in a controlled atmosphere Glove Box (Vacuum Atmospheres Co.). Tetrahydrofuran (THF, Merck=Merck KGaA, Darmstadt, Germany) and diethyl ether (Merck) for synthesis were purified by distillation over LiAlH4, and stored over sodium benzophenone ketyl under an inert atmosphere; prior to use, the solvents were distilled from the benzophenone ketyl. Hydrocarbon solvents such as benzene (Merck), toluene (Merck) and hexanes (Merck) and including benzene-d6 for NMR measurements were typically distilled over CaH2, and were stored over Na/K alloy under an inert atmosphere; prior to use, the solvents were distilled from the Na/K alloy. Methylene chloride (Merck) and CCl2D2 (Cambridge Isotope) for NMR measurements were distilled and stored over CaH2 under an inert atmosphere; prior to use, the solvents were distilled from the CaH2. Benzothiophene (Aldrich), 2.5 M nBuLi in hexanes (Acros=Acros Organics), 1.6 M MeLi in ether (Acros), 3.0 M methylzinc chloride in THF (Aldrich), 1.0 M phenylmagnesium bromide in THF (Aldrich), 1.0 M p-tolylmagnesium bromide in THF (Aldrich), 1.0 M mesityl bromide in THF (Aldrich), 0.5 M 4-N,N-dimethylaminophenylmagnesium bromide in THF (Aldrich), 2-bromobenzylbromide (Aldrich), 2-chlorobenzylchloride (Merck), diethyl methylmalonate (Acros), 2-bromobenzotrifluoride (Acros), 3-bromobenzotrifluoride (Acros), 1,3-bis(trifluoromethyl)-5-bromobenzene (Aldrich), 4-tert-butylbromobenzene (Acros), 2-bromo-4-isopropylaniline (Aldrich), 2-bromo-2-methylpropanoyl bromide (Aldrich), 1-bromonaphthalene (Acros), 0.5 M ZnCl2 in THF (Aldrich), and Pd(PtBu3)2 (Strem=Strem Chemical Co.), 2-[di(tert-butyl)phosphino]-1,1′-biphenyl (Strem), ZrCl4(THF)2 (Aldrich), NaBH4 (Acros), NaBPh4 (Aldrich), anhydrous powdered AlCl3 (Merck), and dichlorodimethylsilane (Merck) were used as obtained. Solutions of Grignard reagents (2-trifluoromethylphenylmagnesium bromide, 3-trifluoromethylphenylmagnesium bromide, 4-tert-butylphenylmagnesium bromide, 1,3-bis(trifluoromethyl)-5-bromobenzene, and 1-naphthylmagnesium bromide) in THF were obtained from magnesium turnings (Aldrich) and the respective arylbromides in THF at reflux. 5-Methyl-4,5-dihydro-6H-cyclopenta[b]-thiophen-6-one [Ryabov, A. N.; Gribkov, D. V.; Izmer, V. V.; Voskoboynikov, A. Z. Organometallics 2002, 21, 2842] was prepared according to the published method. 2-Bromo-1-(bromomethyl)-3-methylbenzene [Baker, R. W.; Foulkes, M. A.; Griggs, M.; Nguyen, B. N. Tetrahedron Lett. 2002, 43, 9319] was prepared from 2-bromo-m-xylene (Acros) according to the published procedure. Pd(dba)2 was prepared from PdCl2 (Aldrich) and dibenzolidenacetone (Acros) as described in literature [Coulson, D. R. Inorg. Synth. 1972, 13, 121].

reactant | 5-Methyl-4,5-dihydro-6H-cyclopenta[b]-thiophen-6-one | CC1CC2=C(SC=C2)C1=O | C8H8OS
reactant | 2-Bromo-1-(bromomethyl)-3-methylbenzene | BrC1=C(C=CC=C1C)CBr | C8H8Br2
reactant | 2-bromo-m-xylene | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | PdCl2 | Cl[Pd]Cl
solvent | THF | O1CCCC1 | C4H8O
product | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd] | InChI=1S/2C17H14O.Pd/c2*18-17(13-11-15-7-3-1-4-8-15)14-12-16-9-5-2-6-10-16;/h2*1-14H;/b2*13-11+,14-12+;
